US09108983B2
6-({4-[(tert-Butyldimethylsilyl)oxy]phenyl}amino)pyridine-2-carbonitrile
4-Aminophenol (3.3 g, 30.2 mmol) is added to a solution of 6-chloropyridine-2-carbonitrile (3.5 g, 25.3 mmol) in 1-methyl-2-pyrrolidinone (70 mL). The reaction mixture is heated at 140-150° C. for 16 hours in a sealed flask. The batch is then cooled to ambient temperature. Imidazole (3.4 g, 49.9 mmol) and tert-butyl(dimethyl)silyl chloride (7.6 g, 50.4 mmol) are subsequently added and the mixture is stirred for 16 hours at ambient temperature. The mixture is diluted with water (140 mL) and the product is extracted with AcOEt (4×50 mL). The organic phases are combined and washed with water (3×50 mL), and then brine (1×50 mL). The organic phase is then dried over MgSO4, filtered and concentrated in vacuo. The crude product is purified by chromatography over silica gel using ethyl acetate and heptane as eluants to obtain the title product.

reactant | 4-Aminophenol | 30.2 mmol, 3.3 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | 6-chloropyridine-2-carbonitrile | 25.3 mmol, 3.5 g | ClC1=CC=CC(=N1)C#N | C6H3ClN2
reactant | Imidazole | 49.9 mmol, 3.4 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl(dimethyl)silyl chloride | 50.4 mmol, 7.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | 1-methyl-2-pyrrolidinone | 70 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 140 mL | O | H2O
product | 6-({4-[(tert-Butyldimethylsilyl)oxy]phenyl}amino)pyridine-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)NC1=CC=CC(=N1)C#N | C18H23N3OSi
